US06605620B1
Synthesis of 4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine
1-(tert-Butoxycarbonyl)-4-piperidone (4.78 g) and m-anisidine (2.96 g) were condensed in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-piperidone | 4.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | m-anisidine | 2.96 g | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(m-Anisidino)-1-(tert-butoxycarbonyl)piperidine | COC1=CC(=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O3
